US07049310B2
b) 6-Bromo-3-(2-methoxyethyl)-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one
1,1′-Carbonyldiimidazole (0.74 g, 4.60 mmole) was added to a solution of 2-amino-5-bromo-3-[(2-methoxyethyl)aminomethyl]pyridine (1.00 g, 3.80 mmole) in 1,2-dichloroethane (35 mL) at RT. The reaction was heated at 65° C. with stirring overnight, then was concentrated in vacuo. Flash chromatography on silica gel (5% MeOH/(CHCl3) gave title compound (0.90 g, 83%) as a yellow solid after drying in vacuo: MS (ES) m/e 286/288 (M+H)+.

reactant | 1,1′-Carbonyldiimidazole | 4.60 mmole, 0.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-amino-5-bromo-3-[(2-methoxyethyl)aminomethyl]pyridine | 3.80 mmole, 1.00 g | NC1=NC=C(C=C1CNCCOC)Br | C9H14BrN3O
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | 6-Bromo-3-(2-methoxyethyl)-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one | 0.90 g, 83% | BrC1=CC2=C(NC(N(C2)CCOC)=O)N=C1 | C10H12BrN3O2
